US08133851B2
1.2 Ethyl(1-hydroxycyclobutyl)-[(3-trifluoromethyl-1H-pyrazole-4-carbonyl)amino]-acetate (Cpd.3.1)
23.0 ml of hexamethyldisilazane (mmol) were dissolved in 200 ml of THF, and 46 ml of 2.5M (115 mmol) of butyllithium solution in hexane were added dropwise at −78° C. After 30 min, 7.90 g (22.3 mmol) of ethyl [(1-methyl-3-trifluoromethyl-1H-pyrazole-4-carbonyl)amino]acetate, dissolved in 50 ml of THF, were added dropwise, and the mixture was stirred at −78° C. for 1.5 h. 3.0 g (42.8 mmol) of cyclobutanone and 4.14 g (29.2 mmol) of BF3-etherate, dissolved in 50 ml of THF, were added dropwise, and the mixture was stirred at −78° C. for 2 h, at −50° C. for 1 h and at 0° C. for 1 h. 100 ml of saturated NH4Cl solution were added dropwise, and the mixture was stirred for 30 min. The organic phase was separated off and the solvents were removed under reduced pressure. This gave 9.88 g (100%) of colorless crystals which were reacted without further purification.

reactant | hexamethyldisilazane | 23.0 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | butyllithium | 115 mmol, 2.5M | C(CCC)[Li]
reactant | ethyl [(1-methyl-3-trifluoromethyl-1H-pyrazole-4-carbonyl)amino]acetate | 22.3 mmol, 7.90 g | CN1N=C(C(=C1)C(=O)NCC(=O)OCC)C(F)(F)F | C10H12F3N3O3
reactant | cyclobutanone | 42.8 mmol, 3.0 g | C1(CCC1)=O | C4H6O
reactant | BF3 | 29.2 mmol, 4.14 g | B(F)(F)F | BF3
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Ethyl(1-hydroxycyclobutyl)-[(3-trifluoromethyl-1H-pyrazole-4-carbonyl)amino]-acetate | C(C)OC(C(NC(=O)C=1C(=NNC1)C(F)(F)F)C1(CCC1)O)=O | C13H16F3N3O4
